US04618686
4 Grams of polychorinated biphenyl transformer oil (ASKAREL) containing approximately up to 70% PCBs was dissolved in 25 ml of tetrahydrofuran and mixed with 25 g potassium carbonate dissolved in 50 ml water, and 0.5 g of 5% palladium on carbon. The mixture was stirred and warmed to 50° C. To this mixture, while stirring, was added a solution of 10 g sodium hypophosphite monohydrate in 20 ml water dropwise over a period of one hour. Subsequently, an additional 5 g of sodium hypophosphite monohydrate in 10 ml water was added dropwise over a period of 30 minutes. The catalyst was filtered off, the reaction mixture was mixed with 100 ml diethyl ether, the phases separated, the aqueous phase was extracted with 100 ml diethyl ether in 50 ml portions and the organic phases combined. After drying the organic phase with magnesium sulfate, the organic phase was concentrated to yield 0.85 g of biphenyl. A GC analysis made on both the starting material and the reaction product established that all detectable PCB's had been removed.

reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hypophosphite monohydrate | 10 g | O.[PH2](=O)[O-].[Na+]
reactant | sodium hypophosphite monohydrate | 5 g | O.[PH2](=O)[O-].[Na+]
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | biphenyl | 0.85 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
